US04990515
8-(3,4-Dimethyl-1-piperazinyl)-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is prepared under the conditions of Reference Example 21 but starting from 2.3 g of 1-ethyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid, 2.26 cm3 of 98% formic acid and 5.6 cm3 of a 30% aqueous solution of formaldehyde. 1.75 g of 8-(3,4-dimethyl-1-piperazinyl)-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid melting at 293°-294° C.

reactant | 1-ethyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 2.3 g | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C)=O)C(=O)O | C20H21FN4O3
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | 2.26 cm3 | C(=O)O | CH2O2
product | 8-(3,4-dimethyl-1-piperazinyl)-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.75 g | CC1CN(CCN1C)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CC)C1)F | C21H23FN4O3
